Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left ankle pain
 
Major Surgical or Invasive Procedure:
ORIF L ankle fracture

 
History of Present Illness:
This is a ___ with PMH of a L femoral and tibial shaft
fractures sp retrograde and antegrade nailing in ___ (___) who
sustained a twisting injury to his L ankle. Patient was walking
down stairs earlier today when he slipped and sustained a
torsional injury to his L foot. He had immediate pain and
inability go ambulate. He denies headstrike or LOC. He initially
presented to ___ for further evaluation, where
XRays demonstrated a bimalleolar ankle fracture. As his previous
Orthopedic care was at ___, he requested transfer here for
treatment. Orthopedics was consulted for evaluation upon patient
arrival. 

 
Past Medical History:
PMH: 
None

PSH: 
sp L Retrograde femoral nail, L tibial nail, LLE fasciotomies in
___ with Dr. ___

 
___ History:
___
Family History:
Non contributory
 
Physical Exam:
AFVSS
Gen: A&Ox3, No actue distress
Ext: LLE Splint c/d/i, ___, SILT sp/dp/t, WWP

 
Pertinent Results:
___ Ankle (AP, Mortise, Lat) in OR: Plate and screw fixation of 
the distal fibula and intramedullary rod and screw fixation of 
the distal tibia is seen.  No overt hardware complication is 
present.  Fracture lines through the distal tibia and fibula are 
still appreciated.  Prominent calcaneal enthesophyte is seen at 
the Achilles tendon insertion.  Please refer to the 
intraoperative report for further details. 

___ Ankle (AP, Mortise, Lat): IMPRESSION:  Medial and lateral 
malleolar fractures of the left ankle as described above, status 
post splint placement with asymmetric widening of the ankle 
mortise. 
  
___ 01:30AM   ___ PTT-30.0 ___
___ 01:30AM   PLT COUNT-212
___ 01:30AM   NEUTS-62.4 ___ MONOS-6.7 EOS-1.0 
BASOS-0.9
___ 01:30AM   WBC-11.6* RBC-4.58*# HGB-15.3# HCT-40.8# 
MCV-89 MCH-33.3* MCHC-37.5* RDW-11.7
___ 01:30AM   estGFR-Using this
___ 01:30AM   GLUCOSE-103* UREA N-9 CREAT-0.8 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-104 TOTAL CO2-23 ANION GAP-18
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have left ankle fracture and was admitted to the orthopedic 
surgery service.  The patient was taken to the operating room on 
___ for open reduction internal fixation of left ankle 
fracture, which the patient tolerated well (for full details 
please see the separately dictated operative report). The 
patient was taken from the OR to the PACU in stable condition 
and after recovery from anesthesia was transferred to the floor. 
 The patient was initially given IV fluids and IV pain 
medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given perioperative 
antibiotics and anticoagulation per routine.  The patients home 
medications were continued throughout this hospitalization.  The 
patient worked with ___ who determined that discharge to home was 
appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is touch down weight bearing in the 
left lower extremity, and will be discharged on ASA 325mg dialy 
for DVT prophylaxis.  The patient will follow up in two weeks 
per routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
daily as needed for constipation Disp #*20 Capsule Refills:*0
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every ___ hours as 
needed for pain control Disp #*90 Tablet Refills:*0
4. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth Daily for 14 days post 
operatively Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L bimalleolar fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take ASA 325mg daily for 2 weeks

 
Followup Instructions:
___